US07947761B2
N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride, prepared as described in Example 8 (15 g) and 175 mL of 2N HCl were heated at reflux for 6 hours. The solvent was removed by rotary evaporation, and the residue was washed with ethanol. The resulting white precipitate was filtered off and dried in vacuum, yielding 13.7 g (94%) of 5-(2-aminoethyl)-2-methoxyphenylamine (AMMPA) dihydrochloride as white crystals. 1HNMR (DMSO-d6) spectrum was consistent with the desired product.

reactant | N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride | Cl.NC=1C=C(C=CC1OC)CCNC(C)=O
reactant | HCl | 2N, 175 mL | Cl | ClH
product | 5-(2-aminoethyl)-2-methoxyphenylamine | 13.7 g, 94% | NCCC=1C=CC(=C(C1)N)OC | C9H14N2O
